US04711898
Methyl p-aminobenzoate (3.0 grams) and 4.1 grams of ethyl benzoylacetate are dissolved in 100 ml of chloroform and the solution is subjected to azeotropic dehydration for two days after the addition of 0.5 gram of p-toluenesulfonic acid. Chloroform is evaporated therefrom, n-hexane is added to the residue, the extract with n-hexane is evaporated, 30 ml of diphenyl ether is added to the residue, the mixture is heated at 255° C. for twenty minutes, cooled, crystals separate out therefrom are collected by filtration, washed with n-hexane and dried to give 4.4 grams of methyl 2-phenyl-4-quinolone-6-carboxylate, needles, melting at higher than 300° C.

reactant | Methyl p-aminobenzoate | 3.0 grams | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | ethyl benzoylacetate | 4.1 grams | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | p-toluenesulfonic acid | 0.5 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-phenyl-4-quinolone-6-carboxylate | 4.4 grams | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(C1)=O)C(=O)OC | C17H13NO3
